US04421753
1-(p-n-Butylbenzyl)-piperazine
A 26.4 g. portion of 1-benzylpiperazine, 25 g. of potassium carbonate and 200 ml. of dry tetrahydrofuran were stirred and cooled. A 31.5 g. portion of 4-n-butyl benzoyl chloride and 100 ml. of tetrahydrofuran were added and the mixture stirred 18 hours. A 100 ml. portion of 1 N sodium hydroxide was added and the mixture stirred for one hour. The phases were separated. The aqueous phase was extracted with 100 ml. of chloroform. The extract was combined with the tetrahydrofuran layer, dried and evaporated to an oil. This oil was suspended in a mixture of 100 ml. of glacial acetic acid and 10 ml. of water, 4 g. of 10% palladium on carbon catalyst were added and the mixture reduced. The reaction mixture was filtered. The filtrate was washed with ethanol, evaporated to a syrup and triturated with ether, giving 17.5 g. of colorless crystals. A 17.0 g. portion of these crystals were dissolved in water and 10 N sodium hydroxide added to a pH>10. This mixture was extracted with two 200 ml. portions of chloroform. The extracts were combined, dried and evaporated to give 12.3 g. of 1-(p-n-butylbenzoyl)-piperazine as a viscous syrup. This was dissolved in 250 ml. of dry tetrahydrofuran, 2 g. of lithium aluminum hydride was added, and the mixture was stirred and refluxed for 20 hours. The reaction mixture was cooled, treated with aqueous sodium carbonate solution, and the tetrahydrofuran was removed in vacuo. The aqueous solution was extracted with chloroform followed by concentration of the extract in vacuo giving the title compound as a colorless oil, b.p. 127°-130° C./0.05 mm.

reactant | 1-benzylpiperazine | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-n-butyl benzoyl chloride | C(CCC)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | sodium hydroxide | 10 N | [OH-].[Na+]
reactant | 1-(p-n-butylbenzoyl)-piperazine | C(CCC)C1=CC=C(C(=O)N2CCNCC2)C=C1 | C15H22N2O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(p-n-Butylbenzyl)-piperazine | C(CCC)C1=CC=C(CN2CCNCC2)C=C1 | C15H24N2
